US07375126B2
[3-(2-methoxy-1,1-dimethyl-ethyl)-phenylethynyl]-trimethyl-silane
To a solution of 1-bromo-3-(2-methoxy-1,1-dimethyl-ethyl)-benzene (1.62 g, 6.69 mmol) and trimethylsilylacetylene (1.2 mL, 8.7 mmol, 1.3 eq.) in MeCN-Et3N (50 mL, 7:3) was added Pd(PPh3)2Cl2 (0.23 g, 0.33 mmol. 0.05 eq.), CuI (0.038 g, 0.2 mmol, 0.03 eq.) and the mixture refluxed for 16 h. After cooling to ambient temperature and concentration under reduced pressure the residue was chromatographed (EtOAc-hexane, 2:98) to obtain 1.54 g (89%) of the desired product. NMR (DMSO-d6): 7.28-7.00 (m, 4H), 3.16 (s, 2H), 2.98 (s, 3H), 1.00 (s, 6H), 0.1 (s, 9H). MS (DCI): 261 (M+1).

reactant | 1-bromo-3-(2-methoxy-1,1-dimethyl-ethyl)-benzene | 6.69 mmol, 1.62 g | BrC1=CC(=CC=C1)C(COC)(C)C | C11H15BrO
reactant | trimethylsilylacetylene | 8.7 mmol, 1.2 mL, 1.3 eq. | C[Si](C)(C)C#C | C5H10Si
solvent | MeCN Et3N | 50 mL | CC#N.CCN(CC)CC
catalyst | Pd(PPh3)2Cl2 | 0.33 mmol, 0.23 g, 0.05 eq. | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | CuI | 0.2 mmol, 0.038 g, 0.03 eq. | [Cu]I
product | [3-(2-methoxy-1,1-dimethyl-ethyl)-phenylethynyl]-trimethyl-silane | 1.54 g, 89% | COCC(C)(C)C=1C=C(C=CC1)C#C[Si](C)(C)C | C16H24OSi
